US05629406
(4R)-1-t-Butoxycarbonyl-4-hydroxy-N-t-butyl-L-prolinamide
17.16 g (62.40 mmol) of diphenylphosphoryl azide, 5.70 g (78.08 mmol) of t-butylamine and 10.4 g (104.00 mmol) of triethylamine were added, in that order, to a solution of 12.0 g (51.95 mmol) of (4S)-1-t- butoxycarbonyl-4-hydroxy-L-proline in 100 ml of dimethylformamide, whilst ice-cooling, and the mixture was stirred for 5 hours. At the end of this time, the reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic extract was washed with a 10% w/v aqueous solution of citric acid, with a 10% w/v aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which the mixture was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was recrystallized from ethyl acetate, to give 10.0 g of the title compound as colorless crystals, melting at 192°-193° C.

reactant | diphenylphosphoryl azide | 62.40 mmol, 17.16 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butylamine | 78.08 mmol, 5.70 g | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 104.00 mmol, 10.4 g | C(C)N(CC)CC | C6H15N
reactant | (4S)-1-t- butoxycarbonyl-4-hydroxy-L-proline | 51.95 mmol, 12.0 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)O | C10H17NO5
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4R)-1-t-Butoxycarbonyl-4-hydroxy-N-t-butyl-L-prolinamide | 10.0 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@H](C1)O | C14H26N2O4
